US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (60.1 mg, 0.149 mmol), (2,4-dioxo-thiazolidin-5-yl)-acetic acid (26.2 mg, 0.149 mmol), triethylamine (63 uL, 0.448 mmol) and BOP (63.2 mg, 0.149 mmol) in 1 mL DMF were reacted as above. The crude product was purified by flash chromatography to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{1-[2-(2,4-dioxo-thiazolidin-5-yl)-acetyl]-piperidin-4-yl}-phenyl)-amide as a white solid (76.9 mg, 90%). ES-MS calcd for C27H23F3N4O5S (m/e) 572.57, obsd 573 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.149 mmol, 60.1 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O2
reactant | (2,4-dioxo-thiazolidin-5-yl)-acetic acid | 0.149 mmol, 26.2 mg | O=C1SC(C(N1)=O)CC(=O)O | C5H5NO4S
reactant | triethylamine | 0.448 mmol, 63 uL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.149 mmol, 63.2 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{1-[2-(2,4-dioxo-thiazolidin-5-yl)-acetyl]-piperidin-4-yl}-phenyl)-amide | 76.9 mg, 90% | O=C1SC(C(N1)=O)CC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C27H23F3N4O5S
